US05905088
Synthesis of 4-(3,5,5,8,8-pentamethyl-2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan-3-yl)benzoic acid
A mixture of ethyl 4-(3,5,5,8,8-pentamethyl-2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan-3-yl)benzoate (200 mg, 0.5 mmol), sodium hydroxide (100 mg, 2.4 mmol) and lithium hydroxide (100 mg, 2.4 mmol) in 5 ml of a solution of THF, methanol and water (5/1/1) was heated under reflux for 24 h. The reaction medium was concentrated in a rotary evaporator under vacuum at 40° C. After adding 5 ml of water and 5 ml of ethyl ether and acidifying with a concentrated hydrochloric acid solution to pH 1, the organic phase was washed twice with 5 ml of water, dried over magnesium sulfate and concentrated in a rotary evaporator under vacuum at 40° C. The solids obtained were washed with heptane.

reactant | ethyl 4-(3,5,5,8,8-pentamethyl-2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan-3-yl)benzoate | 0.5 mmol, 200 mg | CC1(C2=C(OC1)C=C1C(CCC(C1=C2)(C)C)(C)C)C2=CC=C(C(=O)OCC)C=C2 | C26H32O3
reactant | sodium hydroxide | 2.4 mmol, 100 mg | [OH-].[Na+]
reactant | lithium hydroxide | 2.4 mmol, 100 mg | [OH-].[Li+]
reactant | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 4-(3,5,5,8,8-pentamethyl-2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan-3-yl)benzoic acid | CC1(C2=C(OC1)C=C1C(CCC(C1=C2)(C)C)(C)C)C2=CC=C(C(=O)O)C=C2 | C24H28O3
